US05059728
3,3,4,4-tetrafluoro-1-pentene.
The boiling point of 2-difluoromethyl-1,1,1,3,3,3-hexafluoropropane is calculated to be about 38° C. while the boiling point of 2-methyl-1,1,1,3,3,3-hexafluoropropane is calculated to be about 30° C. The boiling point of 2-trifluoromethyl-1,1,1,4,4,4-hexafluorobutane is calculated to be about 75° C. The boiling point of 2-trifluoromethyl-1,1,1,3,3-pentafluoropentane is calculated to be about 38° C. while the boiling point of 2-trifluoromethyl-1,1,1,3,3,4,4-heptafluorohexane is calculated to be about 55° C.

reactant | 2-difluoromethyl-1,1,1,3,3,3-hexafluoropropane | FC(C(C(F)(F)F)C(F)(F)F)F | C4H2F8
reactant | 2-methyl-1,1,1,3,3,3-hexafluoropropane | CC(C(F)(F)F)C(F)(F)F | C4H4F6
reactant | 2-trifluoromethyl-1,1,1,4,4,4-hexafluorobutane | FC(C(C(F)(F)F)CC(F)(F)F)(F)F | C5H3F9
reactant | 2-trifluoromethyl-1,1,1,3,3-pentafluoropentane | FC(C(C(F)(F)F)C(CC)(F)F)(F)F | C6H6F8
reactant | 2-trifluoromethyl-1,1,1,3,3,4,4-heptafluorohexane | FC(C(C(F)(F)F)C(C(CC)(F)F)(F)F)(F)F | C7H6F10
product | 3,3,4,4-tetrafluoro-1-pentene | FC(C=C)(C(C)(F)F)F | C5H6F4
